US08304557B2
3-methyl-N-[3-({2-[(pyridin-3-ylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]pyridine-2-carboxamide
A mixture of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide (150 mg, 0.625 mmol), pyridine-3-carboxylic acid (76.9 mg, 0.625 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (132 mg, 0.689 mmol), 1H-benzotriazol-1-ol (58.0 mg, 0.429 mmol), N,N-diisopropylethylamine (143 μL, 0.835 mmol) and N,N-dimethylacetamide (5 mL) was stirred at room temperature for 13 hr. The reaction mixture was diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, 0%→75% ethyl acetate-hexane) to give the title compound (89.0 mg, 46%) as a pale-yellow solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide | 0.625 mmol, 150 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C20H17N5O2
reactant | pyridine-3-carboxylic acid | 0.625 mmol, 76.9 mg | N1=CC(=CC=C1)C(=O)O | C6H5NO2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.689 mmol, 132 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1H-benzotriazol-1-ol | 0.429 mmol, 58.0 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.835 mmol, 143 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 3-methyl-N-[3-({2-[(pyridin-3-ylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]pyridine-2-carboxamide | 89.0 mg, 46% | CC=1C(=NC=CC1)C(=O)NC1=CC(=CC=C1)OC=1C=CC=2N(C1)C=C(N2)NC(=O)C=2C=NC=CC2 | C26H20N6O3
